US07985753B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(8-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidin-7-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 8-Methyl-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidine to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 8-Methyl-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidine | CC1NCCC2=C1N=CN=C2 | C8H11N3
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(8-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidin-7-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C=1N=CN=CC1CC2)C | C15H13BrN6O
